US08580957B2
A flask was charged with (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinamine di-hydrochloride (for a preparation see Intermediate 61) (250 mg, 0.700 mmol), methyl 4-iodobenzoate (202 mg, 0.770 mmol), sodium tert-butoxide (235 mg, 2.449 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (55.0 mg, 0.140 mmol) and tris(dibenzylideneacetone)dipalladium(0) (64.1 mg, 0.070 mmol) then filled with dried degassed toluene (15 mL) and the resulting mixture was stirred at 70° C. under nitrogen for 5 h then was cooled to room temperature and filtered through celite. The insoluble were rinsed with toluene (3×30 mL) and the combined filtrate and washings were concentrated in vacuo. The residue was partitioned between AcOEt (50 mL) and water (20 mL) and the layers were separated. The organic phase was washed with brine, and the combined aqueous phases were extracted with AcOEt (30 mL). The combined organic phases were dried over MgSO4 and concentrated in vacuo. Purification of the residue by SP4 using a 25 G silica cartridge (gradient:0 to 20% MeOH in DCM) gave methyl 4-{[(cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]amino}benzoate (37 mg, 0.088 mmol, 13%).

reactant | (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinamine di-hydrochloride | Cl.Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)N1C=NC(=C1)C)N)C
reactant | methyl 4-iodobenzoate | 0.770 mmol, 202 mg | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | sodium tert-butoxide | 2.449 mmol, 235 mg | CC(C)([O-])C.[Na+]
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.140 mmol, 55.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.070 mmol, 64.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 4-{[(cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]amino}benzoate | 0.088 mmol, 37 mg, 13% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)N1C=NC(=C1)C)NC1=CC=C(C(=O)OC)C=C1)C | C24H26N4O3
